US07160875B2
(2S)-2-Fluoro-2-methyl-N-[(S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
In an analogous manner to that described in Example 20 d), the condensation of (S)-7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and (2S)-2-fluoro-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid yielded the title compound as a white solid;

reactant | (S)-7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | (2S)-2-fluoro-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | F[C@](C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C7H7F6NO3
product | (2S)-2-Fluoro-2-methyl-N-[(S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | F[C@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)(C(=O)NCC(C(F)(F)F)(F)F)C | C22H19F6N3O3
